### PR TITLE
[Merged by Bors] - feat: Chevalley's theorem

### PR DESCRIPTION
**Pull request by YaelDillies**
This is https://stacks.math.columbia.edu/tag/00FE.

From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

- [x] depends on: #21362

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 1]
```diff
@@ -0,0 +1,879 @@
...
+/-!
+# Chevalley's theorem with complexity bound
+
+Chevalley's theorem states that if `f : R → S` is a finitely presented ring hom between commutative
+rings, then the image of a constructible set in `Spec S` is a constructible set in `Spec R`.
+
+Constructible sets in the prime spectrum are made of open sets in the prime spectrum, which are
+themselves made from a family of polynomials.
+
+We say an open set *has complexity at most `M`* if it can be written as the zero locus of a family
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:21]: Would it be worthy to try to track degree and number of open sets separately?

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -589,6 +590,12 @@ lemma range_comap_algebraMap_localization_compl_eq_range_comap_quotientMk
   rw [range_comap_of_surjective _ _ surj, localization_away_comap_range _ (C c)]
   simp [Polynomial.ker_mapRingHom, Ideal.map_span]
 
+lemma isRetrocompact_iff {U : Set (PrimeSpectrum R)} (hU : IsOpen U) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:593]: What property is there for `PrimeSpectrum` that makes this true and not for more general topological spaces?

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:21]: Do you mean "number of polynomials" rather than "number of open sets"? We're tracking the former, not the latter.

Given the shape of the bound (a tower of size depending on both the degree and number of polynomials used to describe the original variety), I doubt it is possible to track both variables independently.

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:593]: It's the presence of a basis consisting of compact sets whose pairwise intersections are compact too. See https://stacks.math.columbia.edu/tag/0069

Note that the general case is already proved: it's `IsTopologicalBasis.isRetrocompact_iff_isCompact` and we're using it here

Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:593]: Actually, it's equivalent to there being a basis of compact sets and the space being quasi-separated. See #21325.

Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:593]: See #21362

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 3]
```diff
@@ -0,0 +1,895 @@
...
+/-- A type synonym for families of polynomials. This is used in the induction for the case of
+`C : R → R[X]` of Chevalley's theorem with complexity bound. -/
+@[ext]
+structure InductionObj where
+  /-- The underlying family of polynomials of an induction object. -/
+  val : Fin n → R[X]
+
+namespace InductionObj
+
+private instance : CoeFun (InductionObj R n) (fun _ ↦ Fin n → R[X]) := ⟨InductionObj.val⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:91]: I don't think this is used? You seem to write `e.val i` everywhere instead.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 4]
```diff
@@ -0,0 +1,895 @@
...
+1. The vector contains a single monic polynomial (and zero otherwise).
+2. The vector contains zeroes only.
+3. Suppose `eᵢ` has the lowest degree among all monic polynomials and `eⱼ` is some other polynomial.
+  If the property holds when `eⱼ` is replaced by `eⱼ % eᵢ`, then it holds for `e`.
+4. Suppose the property holds for both the localization at some leading coefficient of `eᵢ` and
+  the localization at the leading coefficient of `eᵢ`, then the property holds for `e`.
+
+Then it holds for all vectors `e` over all rings.
+-/
+private lemma induction_structure (n : ℕ)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:173]: Why is this `private`? This might possibly be independently useful? (Probably without the type synonym `InductionObj` though).

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 5]
```diff
@@ -0,0 +1,895 @@
...
+        not_exists, not_and, not_forall, Classical.not_imp, not_le, H, not_false_eq_true]
+      intro h_eq
+      replace h_eq := congr_fun h_eq i
+      simp only [Ideal.Quotient.algebraMap_eq, comp_apply, degree_map_eq_iff,
+        Ideal.Quotient.mk_singleton_self, ne_eq, not_true_eq_false, false_or] at h_eq
+      exact hi h_eq
+
+open IsLocalization in
+open Submodule hiding comap in
+/-- Part 4 of the induction structure. See the docstring of `induction_structure`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:269]:
```suggestion
/-- Part 4 of the induction structure applied to `Statement R₀ R n`. See the docstring of `induction_structure`. -/
```

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 6]
```diff
@@ -0,0 +1,895 @@
...
+
+mutual
+
+/-- The bound on the number of polynomials used to describe the constructible set appearing in the
+case of `C : R → R[X₁, ..., Xₘ]` of Chevalley's theorem with complexity bound. -/
+def numBound (k : ℕ) (D : ℕ → ℕ) : ℕ → ℕ
+  | 0 => k
+  | n + 1 => numBound k D n * degBound k D n * D n
+
+/-- The bound on the degree of the polynomials used to describe the constructible set appearing the
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:583]:
```suggestion
/-- The bound on the degree of the polynomials used to describe the constructible set appearing in the
```

**Review by chrisflav — COMMENTED** [review]
I went through most of the overall strategy and docstrings, but I yet have to have a closer look at the proofs, which I'll hopefully find time to do before the end of the week.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 7]
```diff
@@ -0,0 +1,895 @@
...
+
+/-- **Chevalley's theorem** with complexity bound.
+
+A constructible set of complexity at most `M` in `Spec R[X₁, ..., Xₘ]` gets mapped under
+`f : R[Y₁, ..., Yₙ] → R[X₁, ..., Xₘ]` to a constructible set of complexity `O_{M, m, n}(1)` in
+`Spec R[Y₁, ..., Yₙ]`.
+
+See the module doc of `Mathlib.RingTheory.Spectrum.Prime.ChevalleyComplexity` for an explanation of
+this notion of complexity. -/
+lemma chevalley_mvPolynomial_mvPolynomial
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:791]: It follows the semantic naming convention instead of the symbol-reading naming convention, yes

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:173]: It feels very very specialised to me, like the way you eliminate the polynomials by moding out with the lowest degree polynomial

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 8]
```diff
@@ -0,0 +1,895 @@
...
+
+end PolynomialC
+
+open PolynomialC InductionObj in
+/-- The `C : R → R[X]` case of **Chevalley's theorem** with complexity bound. -/
+lemma chevalley_polynomialC {R : Type*} [CommRing R] (M : Submodule ℤ R) (hM : 1 ∈ M)
+    (S : ConstructibleSetData R[X]) (hS : ∀ x ∈ S, ∀ j k, (x.2.2 j).coeff k ∈ M) :
+    ∃ T : ConstructibleSetData R,
+      comap Polynomial.C '' S.toSet = T.toSet ∧ ∀ C ∈ T, C.2.1 ≤ S.degBound ∧
+      ∀ i, C.2.2 i ∈ M ^ S.degBound ^ S.degBound := by
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:550]: `C` isn't of type `ConstructibleSetData, though. Do you instead mean turning
```
abbrev ConstructibleSetData := Finset (R × Σ n, Fin n → R)
```
into
```
abbrev ConstructibleSetData := Finset (CustomStruct R n)
```
?

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 9]
```diff
@@ -0,0 +1,895 @@
...
+
+## Main reference
+
+The structure of the proof follows https://stacks.math.columbia.edu/tag/00FE, although they do
+not give an explicit bound on the complexity
+
+## See also
+
+`Mathlib.RingTheory.Spectrum.Prime.Chevalley` for the more general complexity-less version of
+Chevalley's theorem.
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:59]: It did exist, but then @erdOne removed it from this PR 😅

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:550]: Oops, yes, that's what I head in mind.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 10]
```diff
@@ -0,0 +1,895 @@
...
+import Mathlib.RingTheory.Spectrum.Prime.Polynomial
+
+/-!
+# Chevalley's theorem with complexity bound
+
+Chevalley's theorem states that if `f : R → S` is a finitely presented ring hom between commutative
+rings, then the image of a constructible set in `Spec S` is a constructible set in `Spec R`.
+
+Constructible sets in the prime spectrum are made of open sets in the prime spectrum, which are
+themselves made from a family of polynomials.
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:19]: I've added "(using unions, intersections, and complements)" to "made of open sets"

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:173]: I agree it is very unlikely and I don't have a strong opinion on it. It seems odd to me though that `InductionObj` is not also private then. Or is that one used in a public declaration?

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 11]
```diff
@@ -0,0 +1,895 @@
...
+open Function Localization MvPolynomial Polynomial TensorProduct PrimeSpectrum
+open scoped Pointwise
+
+namespace ChevalleyThm
+
+/-! ### The `C : R → R[X]` case -/
+
+namespace PolynomialC
+
+local notation3 "coeff("p")" => Set.range (Polynomial.coeff p)
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:74]: This doesn't really matter either way because we're taking the submodule generated by the coefficients. The current definition is simply more convenient because `p.coeff i ∈ coeff(p)` (instead of `p.coeff i ∈ Submodule.span R₀ coeff(p)`)

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:91]: Good point, fixed

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 12]
```diff
@@ -0,0 +1,895 @@
...
+# Chevalley's theorem with complexity bound
+
+Chevalley's theorem states that if `f : R → S` is a finitely presented ring hom between commutative
+rings, then the image of a constructible set in `Spec S` is a constructible set in `Spec R`.
+
+Constructible sets in the prime spectrum are made of open sets in the prime spectrum, which are
+themselves made from a family of polynomials.
+
+We say an open set *has complexity at most `M`* if it can be written as the zero locus of a family
+of at most `M` polynomials each of degree at most `M`. We say a constructible set  *has complexity
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:22]: Yes actually you're right

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:173]: Previously, making `InductionObj` private caused dot notation on it to fail. Looks like this is not the case anymore as of v4.18.0-rc1?

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 13]
```diff
@@ -0,0 +1,893 @@
...
+private lemma one_le_coeffSubmodule : 1 ≤ e.coeffSubmodule R₀ := by
+  rw [Submodule.one_eq_span, Submodule.span_le, Set.singleton_subset_iff]
+  exact one_mem_coeffSubmodule
+
+variable (e) in
+/-- The measure that will decrease during the induction in the `C : R → R[X]` case of
+Chevalley's theorem with complexity bound. -/
+private def degree : DegreeType n :=
+  toLex (Polynomial.degree ∘ e, ¬ ∃ i, (e i).Monic ∧
+    ∀ j, e j ≠ 0 → (e i).degree ≤ (e j).degree)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:121]:
```suggestion
  toLex (Polynomial.degree ∘ e, ¬ ∃ i, (e i).Monic ∧ ∀ j, e j ≠ 0 → (e i).degree ≤ (e j).degree)
```

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 14]
```diff
@@ -0,0 +1,893 @@
...
+      (e.1 i).Monic → (∀ j ≠ i, e.1 j = 0) → P R e)
+    (hP₁ : ∀ (R) [CommRing R], P R ⟨0⟩)
+    (hP₃ : ∀ (R) [CommRing R] (e : InductionObj R n) (i j : Fin n),
+      (e.1 i).Monic → (e.1 i).degree ≤ (e.1 j).degree → i ≠ j →
+      P R ⟨update e.1 j (e.1 j %ₘ e.1 i)⟩ → P R e)
+    (hP : ∀ (R) [CommRing R] (c : R) (i : Fin n) (e : InductionObj R n), c = (e.1 i).leadingCoeff →
+      c ≠ 0 →
+      P (Away c) ⟨Polynomial.C (IsLocalization.Away.invSelf (S := Away c) c) •
+        mapRingHom (algebraMap _ _) ∘ e⟩ →
+      P (R ⧸ Ideal.span {c}) ⟨mapRingHom (algebraMap _ _) ∘ e⟩ → P R e)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:180]: Please make the subscripts on the `hP` assumptions match the 1,2,3,4 in the docstring.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 15]
```diff
@@ -0,0 +1,893 @@
...
+import Mathlib.Algebra.Polynomial.CoeffMem
+import Mathlib.Data.DFinsupp.WellFounded
+import Mathlib.RingTheory.Spectrum.Prime.ConstructibleSet
+import Mathlib.RingTheory.Spectrum.Prime.Polynomial
+
+/-!
+# Chevalley's theorem with complexity bound
+
+Chevalley's theorem states that if `f : R → S` is a finitely presented ring hom between commutative
+rings, then the image of a constructible set in `Spec S` is a constructible set in `Spec R`.
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:16]: Afaict, this file does not actually contain a proof of this exact statement. But it is an easy corollary of the main result at the bottom of the file.
If my understanding is correct, please indicate so in this module doc.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 16]
```diff
@@ -0,0 +1,893 @@
...
+
+Note that, if composing the first result for `C : R → R[X₁]` and `C : R[X₁] → R[X₁, X₂]` naïvely,
+the second map `C : R[X₁] → R[X₁, X₂]` won't *see* the `X₁`-degree of the polynomials used to
+describe the constructible set in `Spec R[X₁]`. One therefore needs to track a subgroup of the ring
+which all coefficients of all used polynomials lie in.
+
+Finally, we deduce the result for any `f : R[Y₁, ..., Yₙ] → R[X₁, ..., Xₘ]` by decomposing it into
+two maps `C : R[Y₁, ..., Yₙ] → R[X₁, ..., Xₘ, Y₁, ..., Yₙ]` and
+`σ : R[X₁, ..., Xₘ, Y₁, ..., Yₙ] → R[X₁, ..., Xₘ]`.
+
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:51]: Please add pointers to Lean declaration names in the above module doc, or add a section `## Main declarations`.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 17]
```diff
@@ -0,0 +1,893 @@
...
+open InductionObj
+
+universe u
+
+/--
+The structure of the induction in the proof of Chevalley's theorem:
+Consider a property on a vector `e` of polynomials. Suppose that it holds for the following cases:
+1. The vector contains a single monic polynomial (and zero otherwise).
+2. The vector contains zeroes only.
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:160]: I would expect this to be the first condition...

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 18]
```diff
@@ -0,0 +1,893 @@
...
+of complexity at most `M` in `Spec R[X₁, ..., Xₘ]` gets mapped under
+`f : R[Y₁, ..., Yₙ] → R[X₁, ..., Xₘ]` to a constructible set of complexity `O_{M, m, n}(1)` in
+`Spec R[Y₁, ..., Yₙ]`.
+
+The bound `O_{M, m, n}(1)` we find is of tower type.
+
+## Sketch proof
+
+We first show the result in the case of `C : R → R[X]`. We prove this by induction on the number of
+components of the form `U \ V`, then by induction again on the number of polynomials used to
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:37]: Whoops no, they were previously open

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 19]
```diff
@@ -0,0 +1,896 @@
...
+`f : R[Y₁, ..., Yₙ] → R[X₁, ..., Xₘ]` to a constructible set of complexity `O_{M, m, n}(1)` in
+`Spec R[Y₁, ..., Yₙ]`.
+
+The bound `O_{M, m, n}(1)` we find is of tower type.
+
+## Sketch proof
+
+We first show the result in the case of `C : R → R[X]`. We prove this by induction on the number of
+components of the form `C \ D`, then by induction again on the number of polynomials used to
+describe `C`. See the (private) lemma `chevalley_polynomialC`.
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:38]: Sorry for nitpicking, but now there are two uses of `C` in the same sentence. One solution might be
```suggestion
We first show the result in the case of `C : R → R[X]`. We prove this by induction on the number of
components of the form `(C₁ ∪ ... ∪ Cₖ) \ D`, then by induction again on the number of polynomials used to
describe `(C₁ ∪ ... ∪ Cₖ)`. See the (private) lemma `chevalley_polynomialC`.
```

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
